US04870074
Preparation of 4-acetylamino-5-chloro-2-ethoxy-N-[[4-(4-fluorobenzyl)-2-morpholinyl]methyl]benzamide (the same compound as that of Example 7)
To a stirred solution of 4-acetylamino-2-ethoxy-N-[[4-(4-fluorobenzyl)-2-morpholinyl]methyl]benzamide (4.0 g) in dimethylformamide (20 ml) is N-chlorosuccinimide (1.3 g), and the resulting mixture is stirred at 70° C. for 2 hours. The reaction mixture is poured into ice-water and extracted with diethyl ether. The organic layer is washed successively with water and saturated aqueous sodium chloride solution, dried over magnesium sulfate, and evaporated. The residue is recrystallized from acetone to give the title compound (3.1 g), mp 161°-163° C.

reactant | 4-acetylamino-2-ethoxy-N-[[4-(4-fluorobenzyl)-2-morpholinyl]methyl]benzamide | 4.0 g | C(C)(=O)NC1=CC(=C(C(=O)NCC2CN(CCO2)CC2=CC=C(C=C2)F)C=C1)OCC | C23H28FN3O4
reactant | N-chlorosuccinimide | 1.3 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-acetylamino-5-chloro-2-ethoxy-N-[[4-(4-fluorobenzyl)-2-morpholinyl]methyl]benzamide | 3.1 g | C(C)(=O)NC1=CC(=C(C(=O)NCC2CN(CCO2)CC2=CC=C(C=C2)F)C=C1Cl)OCC | C23H27ClFN3O4
